* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N004 vin N007 0 BC547B
Q2 N004 N007 N010 0 BC547B
R1 N004 vin 1k
Vcc N004 0 9
Ci vin N006 100n
Vs N005 0 SINE(0 10m 10k) AC 1
Rs N006 N005 50
M1 N008 N008 0 0 BS170
M2 N010 N008 0 0 BS170
Rref N004 N008 745
CL N010 N009 100n
RL N009 0 100k
Vs1 N001 0 SINE(0 10m 10k) AC 1
RS_ Vi N001 {RS_}
RB 0 Vi {RB}
R§hie1 Vi N002 {hie1}
RD N003 0 {RD}
I2 0 N003 {I2}
I1 0 N002 {I1}
R§hie2 N003 N002 {hie2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
;ac dec 100 0.1 1G
* Modelo incremental
.param RS_=50
.param RB=1k
.param RE=900
.param RL=100K
.param RD=900
.param hie1=130084
.param hie2=445
.param I1=29.6u
.param I2=8.64m
;op
.tran 1u
.backanno
.end
