* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N003 vin N006 0 BC547B
Q2 N003 N006 N009 0 BC547B
R1 N003 vin 1k
Vcc N003 0 9
Ci vin N005 100n
Vs N004 0 SINE(0 10m 10k) AC 1
Rs N005 N004 50
M1 N007 N007 0 0 BS170
M2 N009 N007 0 0 BS170
Rref N003 N007 745
CL N009 N008 100n
RL N008 0 100k
Vs1 N001 0 SINE(0 50m 10k) AC 1
RS_ Vi N001 {RS_}
RB Vi 0 {RB}
R§hie1 Vi N002 {hie1}
RD Vo 0 {RD}
I2 0 Vo {I2}
I1 0 N002 {I1}
R§hie2 N002 Vo {hie2}
RS_1 Vi 0 {RS_}
RB1 0 Vi {RB}
R§hie3 Vi N010 {hie1}
I3 0 Vop {I2}
I4 0 N010 {I1}
R§hie4 Vop N010 {hie2}
R2 N010 0 2.028Meg
R3 Vop 0 6944
Vs2 0 Vop SINE(0 50m 10k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
;ac dec 100 0.1 1G
* Modelo incremental
.param RS_=50
.param RB=1k
.param RE=10554
.param RL=100K
.param RD=10554
.param hie1=130k
.param hie2=997
.param I1=29.6u
.param I2=8.64m
;op
.tran 1m
.backanno
.end
