* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N001 vin N004 0 BC547B
Q2 N001 N004 N007 0 BC547B
R1 N001 vin 1k
Vcc N001 0 9
Ci vin N003 100n
Vs N002 0 SINE(0 10m 10k) AC 1
Rs N003 N002 50
M1 N005 N005 0 0 BS170
M2 N007 N005 0 0 BS170
Rref N001 N005 745
CL N007 N006 10µ
RL N006 0 100k
RS_1 Vi 0 {RS_}
RB1 0 Vi {RB}
R§hie3 Vi N008 {hie1}
I3 0 Vop {I2}
I4 0 N008 {I1}
R§hie4 Vop N008 {hie2}
R2 N008 0 2.028Meg
R3 Vop 0 6944
Vs2 0 Vop SINE(0 50m 10k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 0.1 1e6
.param RS_=50
.param RB=1k
.param RE=900
.param RL=100K
.param RD=825
.param hie1=130084
.param hie2=445
.param I1=29.6u
.param I2=8.64m
;op
;tran 1m
.backanno
.end
