* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N001 N003 N005 0 BC547B
Q2 N001 N005 N009 0 BC547B
R1 N001 N003 1k
Vcc N001 0 9
Ci N003 vin 10µ
Vs N002 0 SINE(0 10m 10k) AC 1
Rs vin N002 50
M1 N007 N007 0 0 BS170
M2 N009 N007 0 0 BS170
Rref N001 N007 745
CL N009 N008 10µ
RL N008 0 100k
RS_1 0 Vi {RS_}
RB1 0 Vi {RB}
R§hie1 Vi N011 {hie1}
R§hie2 Vop N011 {hie2}
R2 N011 0 2.028Meg
R3 Vop 0 6944
Vop 0 Vop SINE(0 50m 10k) AC 1
B1 0 Vop I={I(hie2)}*290
B2 0 N011 I={I(hie1)}*150
Q3 0 N004 N006 0 BC547B
Q4 0 N006 N010 0 BC547B
R4 0 N004 1k
Ci1 N004 vin 10µ
Rs1 vin 0 50
Vop1 0 N010 SINE(0 50m 10k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac lin 100 1e4 1e6
.param RS_=50
.param RB=1k
.param RE=900
.param RL=100K
.param RD=825
.param hie1=130084
.param hie2=445
.param I1=29.6u
.param I2=8.64m
;tran 1m
.backanno
.end
